US07465798B2
Intermediate 28: 3-[1-(Benzyloxycarbonyl)indol-3-yl]-2-oxopropyl acetate
The procedure described above for the synthesis of 3-(3,4-dichlorophenyl)-2-oxopropyl acetate was followed, reacting 3-[1-(benzyloxycarbonyl)indol-3-yl]-1-chloropropan-2-one (19.28 g, 56.4 mmol) with acetic acid (6.5 mL, 6.8 g, 0.11 mol) and triethylamine (15.7 mL, 11.4 g, 0.113 mol). Flash chromatography over silica gel (25% ethyl acetate in hexanes) gave pure product as an orange oil that solidified under vacuum to a yellow solid (9.06 g, 44% yield): 1H NMR (400 MHz, CDCl3) δ 2.15 (s, 3H) 3.81 (d, J=0.8 Hz, 2H) 4.73 (s, 2H) 5.45 (s, 2H) 7.26-7.30 (m, 1H) 7.32-7.51 (m, 7H) 7.62 (s, 1H) 8.18 (s, 1H).

reactant | 3-(3,4-dichlorophenyl)-2-oxopropyl acetate | C(C)(=O)OCC(CC1=CC(=C(C=C1)Cl)Cl)=O | C11H10Cl2O3
reactant | 3-[1-(benzyloxycarbonyl)indol-3-yl]-1-chloropropan-2-one | 56.4 mmol, 19.28 g | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC=CC=C12)CC(CCl)=O | C19H16ClNO3
reactant | acetic acid | 0.11 mol, 6.5 mL, 6.8 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 0.113 mol, 15.7 mL, 11.4 g | C(C)N(CC)CC | C6H15N
product | 3-[1-(Benzyloxycarbonyl)indol-3-yl]-2-oxopropyl acetate | 9.06 g, 44% yield | C(C)(=O)OCC(CC1=CN(C2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)=O | C21H19NO5
